* E:\Outpost Vault\Outpost Door\Outpost Quick Access\Projects\1) Major Projects\Work for SOAR\PMB REV 2\Code\SOAR_PMB_Rev_2\SPICE SIMS\Switching Logic.asc
* Generated by LTspice 24.1.4 for Windows.
V§UMBILICAL N028 0 PULSE(0 48 0 10m 4m 200m 5 1)
V§BATT_1 N027 0 PULSE(0 16.8 0 10m 10m 500m 5 1)
V§BATT_2 N026 0 PULSE(0 16.8 0 10m 100m 10 11 1)
R1 UMBILICAL N025 10000
R2 N025 0 1750
C2 Umbilical_comparator 0 100n
A7 BATT_2_comparator LOGIC_POWER 0 0 0 0 N040 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A8 BATT_1_comparator LOGIC_POWER 0 0 0 N039 N037 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.1, Vh = 0.05
A9 Umbilical_comparator LOGIC_POWER 0 0 0 N036 Umbilical_gate_control_logic_output 0 SCHMITT Trise=20u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 5u
R8 N025 Umbilical_comparator 1000
B§UMBILICAL_Noise UMBILICAL N028 V=white(2e4*time) / 13
BATT_1_Noise BATT_1 N027 V=white(2e4*time) / 13
BATT_2_Noise BATT_2 N026 V=white(2e4*time) / 13
R3 BATT_1 N029 10000
R4 N029 0 5400
R6 BATT_2 N031 10000
R12 N031 0 5400
C7 N033 0 1n
C8 LOGIC_POWER 0 4.7µ Rser=1.5m
X§U1 LDO_POWER LOGIC_POWER LDO_POWER N033 LOGIC_POWER 0 ADM7170-5.0
R7 N030 UMBILICAL_GATE 220
D8 N032 N030 DFLZ33
Q2 N034 N035 0 0 NPN
R15 Umbilical_gate_control_signal N035 1000
R22 N035 0 10000
R11 N030 UMBILICAL 10000
C5 UMBILICAL_GATE 0 10n
A1 N036 0 0 0 N037 0 BATT_1_gate_control_logic_output 0 AND Vhigh = 5, Td = 33n, Tfall = 10ns
A2 N036 0 N039 0 N040 0 BATT_2_gate_control_signal_logic_output 0 AND Vhigh = 5, Td = 33n, Tfall = 30n
R9 N038 BATT_1_GATE 1000
Q1 N041 N042 0 0 NPN
R10 BATT_1_gate_control_signal N042 1000
R14 N042 0 10000
R23 N038 BATT_1 10000
C1 BATT_1_GATE 0 10n
R24 N043 BATT_2_GATE 220
Q3 N044 N045 0 0 NPN
R25 BATT_2_gate_control_signal N045 1000
R26 N045 0 10000
R27 N043 BATT_2 10000
C6 BATT_2_GATE 0 10n
R28 N038 N041 0.1
R29 N043 N044 0.1
R30 N032 N034 0.1
R31 UMBILICAL_GATE 0 10e4
C11 BATT_1_comparator 0 100n
R32 N029 BATT_1_comparator 1000
C12 BATT_2_comparator 0 100n
R33 N031 BATT_2_comparator 1000
D1 UMBILICAL LDO_POWER D
D2 BATT_1 LDO_POWER D
D4 BATT_2 LDO_POWER D
C3 BATT_1_gate_control_signal 0 10p
C4 Umbilical_gate_control_signal 0 10p
C13 BATT_2_gate_control_signal 0 10p
A4 N001 N005 N010 N011 0 0 N006 0 AND Vhigh = 5, Td = 9n
A5 N007 0 Umbilical_gate_control_logic_output 0 N014 0 N013 0 AND Vhigh = 5, Td = 33n
A12 UMBILICAL BUCK_RAIL 0 0 0 0 N014 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A13 N007 0 BATT_1_gate_control_logic_output 0 N018 0 N017 0 AND Vhigh = 5, Td = 33n
A14 BATT_1 BUCK_RAIL 0 0 0 0 N018 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
A15 N007 0 BATT_2_gate_control_signal_logic_output 0 N020 0 N019 0 AND Vhigh = 5, Td = 33n
A16 BATT_2 BUCK_RAIL 0 0 0 0 N020 0 SCHMITT Trise=1u, Vhigh = 5, Vt = 0.05, Vh = 0.075, Td = 10n
M7 BATT_2_gate_control_signal N002 BATT_2_gate_control_signal_logic_output BATT_2_gate_control_signal_logic_output Si1555DL_P
A3 Umbilical_gate_control_signal 0 0 0 0 N001 0 0 BUF Vhigh = 5, Td = 9n
M1 BATT_1_gate_control_signal N003 BATT_1_gate_control_logic_output BATT_1_gate_control_logic_output Si1555DL_P
M6 Umbilical_gate_control_signal N004 Umbilical_gate_control_logic_output Umbilical_gate_control_logic_output Si1555DL_P
C10 RESET_GATE 0 20n
R17 N015 0 10000
C16 N022 UMBILICAL_GATE 0.1µ
R21 BUCK_RAIL 0 10000
R36 RESET_GATE N015 10000
R16 N021 N015 1000
R38 N009 N008 330
R34 N002 SIGNAL_MOSFET 220
R35 N003 SIGNAL_MOSFET 220
R37 N004 SIGNAL_MOSFET 220
R48 SIGNAL_MOSFET 0 10000
M11 SIGNAL_MOSFET N009 LOGIC_POWER LOGIC_POWER Si1555DL_P
R5 N008 0 10000
A11 N006 0 N012 0 0 N008 N007 0 DFLOP Vhigh = 5
A20 N006 RESET_CLK 0 0 0 0 N012 0 OR Vhigh = 5
D5 RESET_GATE N021 D
C15 RESET_CLK 0 40n
R13 N015 0 10000
R39 RESET_CLK N015 10000
R40 N016 N015 1000
D6 RESET_CLK N016 D
A10 N013 0 N017 0 N019 0 N015 0 OR Vhigh = 5, Td = 33n
M3 BUCK_RAIL UMBILICAL_GATE N022 N022 Si7469DP
M5 UMBILICAL UMBILICAL_GATE N022 N022 Si7469DP
C9 N023 BATT_1_GATE 0.1µ
M2 BUCK_RAIL BATT_1_GATE N023 N023 Si7469DP
M4 BATT_1 BATT_1_GATE N023 N023 Si7469DP
C17 N024 BATT_2_GATE 0.1µ
M8 BUCK_RAIL BATT_2_GATE N024 N024 Si7469DP
M9 BATT_2 BATT_2_GATE N024 N024 Si7469DP
A6 BATT_1_gate_control_signal 0 0 0 0 N005 0 0 BUF Vhigh = 5, Td = 9n
A17 BATT_2_gate_control_signal 0 0 0 0 N010 0 0 BUF Vhigh = 5, Td = 9n
A18 RESET_GATE 0 0 0 0 N011 0 0 BUF Vhigh = 5, Td = 9n
R18 SIGNAL_MOSFET P001 220
C14 P001 0 1n
.model D D
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.bjt
.model NMOS NMOS
.model PMOS PMOS
.lib C:\Users\reinz\AppData\Local\LTspice\lib\cmp\standard.mos
.tran 1
* Extra pull up resistors so the gate wont be floating if it is disconected somehow
* Diodes to get a gradual turn on (for delaying purposes)
* Need to switch all the output signals to not invert the signal
* Ask if this extra pull up resistor is nessary
* Extra cap so that negitive voltage spike when the npn turns on doesn't affect the gate voltage
* NPN needs to resist like upwards of 50V
* Extra pull down so when the umbilical is disconected, the gate wont be in a high impedance state
* common switch debouncing values
* ORing diodes or or gate, this needs to supply some current to turn on the transmission gate so idk?
* Maybe look into gate driver circuit to save space and cost
* Maybe use transmission gates here or something (single rail transmission gates)
* If the propogation delay is high, then the and gate wont read a fast switch over event, maybe add some sort of delay so down time is more easier to detect.
.lib ADM7170-5.0.sub
.backanno
.end
